US07459263B2
First, 2-(3-methoxyphenylthio)benzoic acid was prepared. A stirred mixture of thiosalicylic acid (3.57 g, 23 mmol), 3-iodoanisole (5.42 g, 23 mmol), potassium carbonate (7.04 g, 51 mmol), copper powder (0.29 g, 5 mmol), and N-methylpyrrolidinone (75 mL) was deaerated by sparging with nitrogen for 10 min, heated at 165° C. for 2 h, and then cooled to ambient. The reaction mixture was poured onto a mixture of 500 g of ice plus 40 mL of concentrated HCl. The resulting precipitate was collected, washed with water, and dried. The precipitate was dissolved in acetone and filtered through Celite, then concentrated to deposit a crude product. The product was purified by recrystallization from aqueous ethanol. A tan powder was obtained, mass: 4.60 g (76% of theory).

reactant | thiosalicylic acid | 23 mmol, 3.57 g | C(C=1C(S)=CC=CC1)(=O)O | C7H6O2S
reactant | 3-iodoanisole | 23 mmol, 5.42 g | IC=1C=C(C=CC1)OC | C7H7IO
reactant | potassium carbonate | 51 mmol, 7.04 g | C([O-])([O-])=O.[K+].[K+]
catalyst | copper | 5 mmol, 0.29 g | [Cu] | Cu
solvent | N-methylpyrrolidinone | 75 mL | CN1C(CCC1)=O | C5H9NO
product | 2-(3-methoxyphenylthio)benzoic acid | COC=1C=C(C=CC1)SC1=C(C(=O)O)C=CC=C1 | C14H12O3S
